US04912231
C. (trans)-1-Benzoyl-4-phenyl-L-proline
To a dry flask was added aluminum trichloride (58 mg, 0.435 mmole) and benzene (3 ml). While stirring under argon, (cis)-1-benzoyl-4-tosyloxy-L-proline (50 mg, 0.128 mmole) was added. After further stirring overnight, the reaction was cooled to 0° C. and quenched with 1N HCl. The resulting mixture was extracted with ethyl acetate and the organic extracts were washed with brine, dried, and concentrated in vacuo. The residue consisted of:

reactant | aluminum trichloride | 0.435 mmole, 58 mg | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | (cis)-1-benzoyl-4-tosyloxy-L-proline | 0.128 mmole, 50 mg | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)OS(=O)(=O)C1=CC=C(C)C=C1 | C19H19NO6S
solvent | benzene | 3 ml | C1=CC=CC=C1 | C6H6
product | (trans)-1-Benzoyl-4-phenyl-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@H](C1)C1=CC=CC=C1 | C18H17NO3
